US04548935
A solution of 2-(2-aminoethyl)-5-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}tetrazole (1.04 g) and dimethyl N-cyanoimidodithiocarbonate (0.30 g) in propan-2-ol (10 ml) was heated under reflux for 16 hours and then evaporated. The residual oil was triturated with hexane containing a small amount of methanol and the resulting solid was collected washed with hexane and dried to give 5-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-2-[2-(3-cyano-2-methyl-1-isothioureido)ethyl]tetrazole (0.75 g), m.p. 78°-80° C. Found: C,48.53; H,4.93; N,17.60. C25H28Cl2N8O5S requires C,48.23; H,4.34; N,18.00%.

reactant | 2-(2-aminoethyl)-5-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}tetrazole | 1.04 g | NCCN1N=C(N=N1)COCC=1NC(=C(C(C1C(=O)OCC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C | C22H26Cl2N6O5
reactant | dimethyl N-cyanoimidodithiocarbonate | 0.30 g | CSC(=NC#N)SC | C4H6N2S2
solvent | propan-2-ol | 10 ml | CC(C)O | C3H8O
product | 5-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-2-[2-(3-cyano-2-methyl-1-isothioureido)ethyl]tetrazole | 0.75 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC=1N=NN(N1)CCNC(SC)=NC#N)C(=O)OCC | C25H28Cl2N8O5S
